US04515852
Further, on the surface of the resulting material are spread an ink consisting of polyurethane elastomer (10%), which is obtained from polycaprolactone glycol, dicyclohexylmethane-4,4'-diisocyanate and 1-amino-3-aminomethyl-3,5,5-trimethylcyclohexane (isophoronediamine), a brown pigment (3%), dimethylformamide (24%), methanol (28%), toluene (8%), isopropanol (5%), acetone (12%) and cyclohexanone (10%) in an amount of 16 g/m2 based on the solids content, and the resulting material is embossed with sheepskin pattern. Then, on the resulting material is spread a dispersion solution consisting of an acryl-modified polyurethane resin (20 parts), which is obtained by emulsion polymerization of isobutyl methacrylate (20 parts) in an ion-exchanged water (30 parts) in the presence of a thermosetting anionic polyurethane emulsion (50 parts), and water (80 parts) in an amount of 8 g/m2 based on the solids content. The material is dried to give a leather-like sheet material [J]. The substrate of the leather-like sheet has a thickness of 1.8 mm and a density of 0.41 g/cm3, and the surface layer is a nonporous layer with a thickness of 16 . Young's modulus of the resin composed of the surface layer is 9.5 kg/mm2.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | methanol | CO | CH4O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | isopropanol | C(C)(C)O | C3H8O
product | isobutyl methacrylate | C(C(=C)C)(=O)OCC(C)C | C8H14O2
